US04550116
To a mixture of ethyl 4-[4-(4-hydroxypiperid-1-yl)butyroyl]α,α-dimethylphenylacetate (18 g; 0.05 moles) and sodium carbonate (10.6 g; 0.1 mol) in methyl isobutyl ketone (100 ml), a solution of diphenylmethyl bromide (12 g; 0.05 moles) in methyl isobutyl ketone (50 ml) was slowly added and the resulting mixture boiled under reflux for 12 hours. Then another solution of diphenylmethyl bromide (6 g; 0.025 moles) in methyl isobutyl ketone (15 ml) was added and the mixture boiled under reflux again for 24 hours. The reaction mixture was cooled, washed with water, the solvent removed in vacuo and the residue treated with the stoichiometric amount of fumaric acid in ethanol. The obtained solid was recrystallized from methyl ethyl ketone and from ethanol to give ethyl 4-[4-(4-diphenylmethoxypiperid-1-yl)butyroyl]α,α-dimethylphenylacetate fumarate (5.6 g; yield 17.4%) which melts at 168°-170° C.

reactant | ethyl 4-[4-(4-hydroxypiperid-1-yl)butyroyl]α,α-dimethylphenylacetate | 0.05 moles, 18 g | OC1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)C(C(=O)OCC)(C)C | C21H31NO4
reactant | sodium carbonate | 0.1 mol, 10.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | diphenylmethyl bromide | 0.05 moles, 12 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)Br | C13H11Br
reactant | diphenylmethyl bromide | 0.025 moles, 6 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)Br | C13H11Br
solvent | methyl isobutyl ketone | 100 ml | C(C(C)C)C(=O)C | C6H12O
solvent | methyl isobutyl ketone | 50 ml | C(C(C)C)C(=O)C | C6H12O
solvent | methyl isobutyl ketone | 15 ml | C(C(C)C)C(=O)C | C6H12O
product | ethyl 4-[4-(4-diphenylmethoxypiperid-1-yl)butyroyl]α,α-dimethylphenylacetate fumarate | 5.6 g, yield 17.4% | C(\C=C\C(=O)O)(=O)O.C1(=CC=CC=C1)C(OC1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)C(C(=O)OCC)(C)C)C1=CC=CC=C1 | InChI=1S/C34H41NO4.C4H4O4/c1-4-38-33(37)34(2,3)29-19-17-26(18-20-29)31(36)16-11-23-35-24-21-30(22-25-35)39-32(27-12-7-5-8-13-27)28-14-9-6-10-15-28;5-3(6)1-2-4(7)8/h5-10,12-15,17-20,30,32H,4,11,16,21-25H2,1-3H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
